* C:\Users\GuganSivakumar\Documents\Github\Wearable-BioNode\Design Docs\Simulation (LTspice)\Analog PDN Filters.asc
* Generated by LTspice 26.0.2 for Windows.
X§XFB 4.8V N001 BLM15EG221SN1 ;§pnba A)B
X§XL 4.8V N004 LQM18PH1R0MFC ;§pnba A)B
X§C2_14pF_COG 4.8V N002 GJM1555C1H140FB01_DC0V_25degC ;§pnba A)B
V1 4.8V 0 4.8V AC 1
X§C4_100F V_out_FB 0 GRM155R61H104KE19_DC4V8_25degC ;§pnba A)B
X§C1_1uF 4.8V 0 GRM155R61H105KE05_DC4V8_25degC ;§pnba A)B
X§C3_14pF_COG V_out_FB N003 GJM1555C1H140FB01_DC0V_25degC ;§pnba A)B
X§C6_14pF_COG 4.8V N005 GJM1555C1H140FB01_DC0V_25degC ;§pnba A)B
X§C5_1uF 4.8V 0 GRM155R61H105KE05_DC4V8_25degC ;§pnba A)B
X§C8_100nF V_out_L 0 GRM155R61H104KE19_DC4V8_25degC ;§pnba A)B
X§C7_14pF_COG V_out_L N006 GJM1555C1H140FB01_DC0V_25degC ;§pnba A)B
R1 V_out_FB N001 2.5
R2 V_out_L N004 2
R3 N003 0 5
R4 N002 0 5
R5 N006 0 5
R6 N005 0 5
* Ferrite Bead Pi Filter
* Inductor Pi Filter
.include Spice_Models(SimSurf)\BLM15EG221SN1.mod
.include Spice_Models(SimSurf)\GRM155R61H104KE19_DC4V8_25degC.mod
.include Spice_Models(SimSurf)\GJM1555C1H140FB01_DC0V_25degC.mod
.include Spice_Models(SimSurf)\GRM155R61H105KE05_DC4V8_25degC.mod
.include Spice_Models(SimSurf)\LQM18PH1R0MFC.mod
.ac dec 1000 1000 4GHz
.include Spice_Models(SimSurf)\GRM1555C1H8R0BA01_DC0V_25degC.mod
.backanno
.end
